US05725798
For example, 4'-alkoxy-4-bromobiphenyl (17) is reacted with triphenylphosphin to obtain triphenylphosphonium salt of 4'-alkoxybiphenyl (21). The thus obtained triphenylphosphonium salt of 4'-alkoxybiphenyl (21) is reacted with 6-formyl-2-naphthalenecarboxylic acid methyl ester as a solution in such as methylene chloride and then the resulting compound is reacted with hydrogen in the presence of the reducing catalyst such as paradium carbon in a solvent such as tetrahydrofuran (THF) to obtain 6-[4'-alkoxy-4-biphenyl)ethyl]-2-naphthalenecarboxylic acid methyl ester. The resulting 6-[4'-alkoxy-4-biphenyl)ethyl]-2-naphthalenecarboxylic acid methyl ester is hydrolysised to obtain 6-[4'-alkoxy-4-biphenyl)ethyl]-2-naphthalenecarboxylic acid (22).

reactant | triphenylphosphonium | C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | 6-formyl-2-naphthalenecarboxylic acid methyl ester | COC(=O)C1=CC2=CC=C(C=C2C=C1)C=O | C13H10O3
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-naphthalenecarboxylic acid methyl ester | COC(=O)C1=CC2=CC=CC=C2C=C1 | C12H10O2
